US09062038B2
A mixture of 5-(4-chlorobenzyl)-2-pyridin-4-yl-1,3-oxazole-4-carboxamide (0.130 g, 0.41 mmol) and 1,1-Dimethoxy-N,N-dimethylmethanamine (3.0 mL, 22 mmol) in Toluene (25 mL) was heated under argon at 40° C. overnight. The reaction mixture was then concentrated to an oily residue. Acetic acid (20 mL, 350 mmol) and Hydrazine (1.0 mL, 30 mmol) were added to the flask and the mixture was heated 60° C. for another 1 hour. The mixture was concentrated and the residue was purified by HPLC to afford 4-[5-(4-chlorobenzyl)-4-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]pyridine (7 mg, 5. 2%). LCMS (FA) ES+338.0, 339.9. 1H NMR (400 MHz, MeOD) δ ppm 8.73-8.64 (m, 2H), 8.49-8.33 (m, 1H), 8.05-7.97 (m, 1H), 7.89-7.75 (m, 2H), 7.38 (d, J=7.16 Hz, 2H), 7.30 (d, J=6.64 Hz, 2H), 4.60 (s, 2H).

reactant | 5-(4-chlorobenzyl)-2-pyridin-4-yl-1,3-oxazole-4-carboxamide | 0.41 mmol, 0.130 g | ClC1=CC=C(CC2=C(N=C(O2)C2=CC=NC=C2)C(=O)N)C=C1 | C16H12ClN3O2
reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 22 mmol, 3.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | Acetic acid | 350 mmol, 20 mL | C(C)(=O)O | C2H4O2
reactant | Hydrazine | 30 mmol, 1.0 mL | NN | H4N2
solvent | Toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[5-(4-chlorobenzyl)-4-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]pyridine | 7 mg, 2% | ClC1=CC=C(CC2=C(N=C(O2)C2=CC=NC=C2)C2=NN=CN2)C=C1 | C17H12ClN5O
